US07355069B2
a) N-(2,4-difluorobenzyl)-N-heptyl-3-(4-hydroxyphenyl)propanamide
3-(4-Hydroxyphenyl)propionic acid (108 mg, 0.650 mmol) was dissolved in DMF. N-(2,4-difluorobenzyl)-N-heptylamine (164.7 mg, 0.682 mmol) was added. The mixture was cooled in an ice-bath. TBTU (219 mg, 0.682 mmol) was added and followed by DIPEA (0.238 ml, 1.365 mmol). The mixture was stirred overnight and the temperature was allowed up to room temperature. Ethyl acetate and sodium hydrogencarbonate aqueous solution (sat.) were added and then the two phases were separated. The water phase was extracted with ethyl acetate. The organic phases were combined and dried with magnesium sulphate and evaporated. Chromatography of the residue on a column (ISOLUTE® SI, 5 g/15 ml) using DCM and then MeOH/DCM (1:99) as eluant gave 223 mg desired product, yield 88%.

reactant | 3-(4-Hydroxyphenyl)propionic acid | 0.650 mmol, 108 mg | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
reactant | N-(2,4-difluorobenzyl)-N-heptylamine | 0.682 mmol, 164.7 mg | FC1=C(CNCCCCCCC)C=CC(=C1)F | C14H21F2N
reactant | TBTU | 0.682 mmol, 219 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 1.365 mmol, 0.238 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2,4-difluorobenzyl)-N-heptyl-3-(4-hydroxyphenyl)propanamide | 223 mg, yield 88% | FC1=C(CN(C(CCC2=CC=C(C=C2)O)=O)CCCCCCC)C=CC(=C1)F | C23H29F2NO2
